Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins / ceftriaxone / Iodinated Contrast- Oral and IV Dye
 
Attending: ___
 
Chief Complaint:
Type II dens fracture
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M who was transferred from ___ for evaluation
of Odontoid fracture. Patient was walking down the stairs 
earlier
today when he lost his balance and fell down ___ stairs hitting
his neck on the door jam. He complained of neck pain after the
fall and was taken to the ER where imaging revealed a type II
odontoid fracture and a rib fracture. He was transferred to 
___
for further evaluation. Upon eval he c/o of diffuse neck pain.
Denies radicular symptoms, weakness, numbness, tingling. 
 
Past Medical History:
Sick Sinus Syndrome
CABG 
Cardiac stent x1
Mitral Valve replacement 
GERD
Hyperlipidemia 
Hypertension 
Pacemaker ___ 
___ 
Rotator cuff bilateral repairs
Hernia Repair x3
 
Social History:
___
Family History:
NC
 
Physical Exam:
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___   EOMs intact
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    G    IP    Q  H     AT    ___    G
R     5    5     5    5    5     5  5     5      5     5
L     5    5     4+    5    5     5  5     5      5     5

Sensation: Intact to light touch bilaterally.

No Hoffmans 
No clonus 
 
Pertinent Results:
See OMR for pertinent lab results and imaging.
 
Brief Hospital Course:
___own ___ stairs with neck pain and type 2 odontoid 
fracture

#Type 2 odontoid fracture
The patient presented with a type II dens fracture and was 
placed in a c-collar. He was also diagnosed with a L 1st rib 
fracture. He was admitted to the neurosurgery service and made 
NPO initially to discuss surgery. Upon review with the attending 
neurosurgeon, the decision was made to proceed with nonoperative 
management in a ___ collar at all times. He was neuro intact 
with the exception of possible trace weakness of the L triceps. 
He was given a heart healthy diet and fluids were discontinued. 
He worked with physical therapy who determined that patient 
required discharge to an ___ rehab facility. At the time 
of discharge, patient was voiding spontaneously and pain was 
well controlled. He will follow up with Dr. ___ in 4 
weeks with repeat CT scan at that time.

#MVR on Coumadin
His Coumadin was held on HD1 given potential need for surgery. 
It was resumed on HD2. His INR was 3.4 on arrival, and 2.1 on 
day of discharge.
He will be discharged on his home Coumadin regimen with 
instructions to follow up closely with his PCP. 
 
Medications on Admission:
Niacin 50mg 
Omeprazole 20mg 
oxybutynin chloride ER 10 mg 
finaterid 5mg daily 
simvastatin 40 mg daily 
Coumadin 10mg
HCTZ 25mg daily 
Trazodone 100mg QHS
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  Senna 17.2 mg PO HS  
5.  TraMADol 25 mg PO Q6H:PRN pain  
6.  Oxybutynin 5 mg PO BID  
7.  Finasteride 5 mg PO DAILY  
8.  Hydrochlorothiazide 25 mg PO DAILY  
9.  Niacin 50 mg PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Simvastatin 40 mg PO QPM  
12.  Warfarin 7.5-10 mg PO DAILY16  
13.  Warfarin 7.5 mg PO 4X/WEEK (___)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Type II Dens Fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for your broken bone, or a 
fracture, of your cervical spine. This will be treated 
nonoperatively in a hard cervical collar at all times. You also 
have 1 rib fracture that will be treated nonoperatively.

Activity
•You must wear your cervical collar at all times.
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing.

Medications
•You may resume your Coumadin. Please follow up with your PCP 
for adjustments in dosing as needed.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•New weakness or changes in sensation in your arms or legs, 
bowel or bladder dysfunction, worsening pain

 
Followup Instructions:
___